US06235851B1
The reaction was conducted in accordance with the method of The Japanese Patent Publication No. 61980/1995 (JP-B-7-61980) to obtain an adamantane monoaclylate, namely, 15 mole of anhydrousbromine and 1.6 mole of adamantane were reacted at the reflux temperature of bromine for 7 hours, surplus bromine was distilled off under reduced pressure, and after the addition of 200 ml of carbon tetrachloride (IV), the residual bromine was resolved with sodium sulfite. A white powderly 1-bromoadamantane was provided by removing organic layer, and recrystallizing the obtained crude products from methanol.

reactant | adamantane | 1.6 mole | C12CC3CC(CC(C1)C3)C2 | C10H16
reactant | bromine | BrBr | Br2
product | 1-bromoadamantane | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
